US07648997B2
A mixture of 2-{2-[(3-nitroquinolin-4-yl)amino]ethoxy}ethanol (66.2 g, 239 mmol) and 5% platinum on carbon (7.5 g) in ethanol (250 mL) was hydrogenated at approximately 30 psi (2.1×105 Pa) on a Parr apparatus overnight. Magnesium sulfate was added to the mixture, which was then filtered through CELITE filter agent. The filtrate was concentrated under reduced pressure to provide 43.0 g of crude 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethanol as a yellow solid.

reactant | 2-{2-[(3-nitroquinolin-4-yl)amino]ethoxy}ethanol | 239 mmol, 66.2 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCOCCO | C13H15N3O4
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | platinum on carbon | 7.5 g | [Pt] | Pt
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethanol | 43.0 g | NC=1C=NC2=CC=CC=C2C1NCCOCCO | C13H17N3O2
